US08026257B2
2-(5-Chloro-2-((2-(trimethylsilyl)ethoxy)methyl)-2H-indazol-7-yl)acetic acid.
To a solution of 2-(5-chloro-2-((2-(trimethylsilyl)ethoxy)methyl)-2H-indazol-7-yl)acetonitrile (2.47 g, 7.25 mmol) in methanol (36 mL) was added sodium hydroxide (25% in water, 12 mL). The reaction was warmed to reflux and held there overnight. The reaction was cooled to room temperature, concentrated to remove the methanol. The resulting residue was diluted with diethyl ether (20 mL), cooled to 0° C., and made acidic by the cautious addition of concentrated hydrochloric acid with stirring. The resulting suspension was extracted with 1:1 diethyl ether/ethyl acetate (2×). The organics were washed with brine, dried over magnesium sulfate, and concentrated to give 2.47 g (100%) as an off white solid. 1H-NMR (CDCl3, 500 MHz) δ 9.98 (bs, 1H), 8.04 (s, 1H), 7.57 (d, J=1.5 Hz, 1H), 7.17 (d, J=0.9 Hz, 1H), 5.70 (s, 2), 4.04 (s, 2H), 3.61 (t, J=8.2 Hz, 2H), 0.91 (t, J=8.2 Hz, 2H), −0.05 (s, 9H), 13C NMR (126 MHz, CDCl3) δ ppm 174.5, 146.7, 128.4, 128.0, 125.1, 123.2, 122.5, 118.6, 81.9, 67.9, 36.9, 17.9, −1.4. Mass spec.: 341.11 (MH)+.

reactant | 2-(5-chloro-2-((2-(trimethylsilyl)ethoxy)methyl)-2H-indazol-7-yl)acetonitrile | 7.25 mmol, 2.47 g | ClC1=CC2=CN(N=C2C(=C1)CC#N)COCC[Si](C)(C)C | C15H20ClN3OSi
reactant | sodium hydroxide | 12 mL | [OH-].[Na+]
reactant | methanol | 36 mL | CO | CH4O
product | 2-(5-Chloro-2-((2-(trimethylsilyl)ethoxy)methyl)-2H-indazol-7-yl)acetic acid | ClC1=CC2=CN(N=C2C(=C1)CC(=O)O)COCC[Si](C)(C)C | C15H21ClN2O3Si
